US07425568B2
5-Nitro-2-[2-(3-nitrophenyl)chroman-6-yloxy]pyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 2-(3-nitrophenyl)chroman-6-ol. 1H NMR (400 MHz, d6-DMSO) δ: 9.04 (d, 1H, J 2.9 Hz), 8.60 (dd, 1H, J 9.0, 2.9 Hz), 8.32 (s, 1H), 8.23 (d, 1H, J 8.3 Hz), 7.95 (d, 1H, J 7.9 Hz), 7.74 (t, 1H, J 15.8, 7.9 Hz), 7.21 (d, 1H, J 9.0 Hz), 6.96-7.03 (m, 3H), 5.35 (d, 1H, J 8.7 Hz), 2.98-3.06 (m, 1H), 2.72-2.79 (m, 1H), 2.26-2.33 (m, 1H), 1.99-2.06 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(3-nitrophenyl)chroman-6-ol | [N+](=O)([O-])C=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13NO4
product | 5-Nitro-2-[2-(3-nitrophenyl)chroman-6-yloxy]pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C20H15N3O6
